US08703796B2
(174a) 6-Methylamino-5-nitro-nicotinic acid
Prepared analogously to example 154a from 6-chloro-5-nitro-nicotinic acid and 2 M methylamine solution in THF.

reactant | 6-chloro-5-nitro-nicotinic acid | ClC1=NC=C(C(=O)O)C=C1[N+](=O)[O-] | C6H3ClN2O4
reactant | methylamine | 2 M | CN | CH5N
solvent | THF | C1CCOC1 | C4H8O
product | 6-Methylamino-5-nitro-nicotinic acid | CNC1=NC=C(C(=O)O)C=C1[N+](=O)[O-] | C7H7N3O4
